US08207147B2
Preparation 23: 4-(2,4-Dioxo-4-pyridin-4-ylbutoxy)piperidine-1-carboxylic acid tert-butyl ester
Condensation of 4-acetylpyridine with 4-carboxymethoxypiperidine-1-carboxylic acid tert-butyl ester (Preparation 1), employing the protocol described in Preparation 22, afforded the title compound: m/z (ES+)=263.2 [M-Boc+H]+.

reactant | 4-acetylpyridine | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | 4-carboxymethoxypiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(=O)O | C12H21NO5
product | 4-(2,4-Dioxo-4-pyridin-4-ylbutoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(CC(C1=CC=NC=C1)=O)=O | C19H26N2O5
